US08609688B2
Synthesis of 8-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-8-azabicyclo[3.2.1]octan-3-ol
A mixture of 8-(3-bromophenyl)-8-azabicyclo[3.2.1]octan-3-ol (58 mg, 0.206 mmol), bis(pinacolato)diboron (63 mg, 0.247 mmol), Pd(dppf)Cl2.DCM (8 mg, 0.0103 mmol) and potassium acetate (61 mg, 0.618 mmol) in dioxane (3 mL) was heated at 80° C. for 14.5 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAct, washed with water, brine, dried over Na2SO4, then filtrated. The filtrate was concentrated and the residue was purified by silica gel column chromatography (hexane/AcOEt=85:15→75:25) to afford desired product (37 mg, 55%) as colorless oil.

reactant | 8-(3-bromophenyl)-8-azabicyclo[3.2.1]octan-3-ol | 0.206 mmol, 58 mg | BrC=1C=C(C=CC1)N1C2CC(CC1CC2)O | C13H16BrNO
reactant | bis(pinacolato)diboron | 0.247 mmol, 63 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.0103 mmol, 8 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 0.618 mmol, 61 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-8-azabicyclo[3.2.1]octan-3-ol | 37 mg, 55% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1C2CC(CC1CC2)O)C | C19H28BNO3
